US05474995
Step 3: 2-(4-Fluorophenyl)-2-cyclopenten-1-one
A solution of 8 g of 1-(4-fluorophenyl)-5-oxo-2-pentanone in 300 mL of MeOH was treated with 2 g of NaOMe. The mixture was stirred for 2 h and then quenched with 5 mL of HOAc. The solvent was evaporated and the residue purified by flash chromatography, eluting with 3:1 hexane/EtOAc to give 7 g of the title product.

reactant | 1-(4-fluorophenyl)-5-oxo-2-pentanone | 8 g | FC1=CC=C(C=C1)CC(CCC=O)=O | C11H11FO2
reactant | NaOMe | 2 g | C[O-].[Na+]
solvent | MeOH | 300 mL | CO | CH4O
product | 2-(4-Fluorophenyl)-2-cyclopenten-1-one | 7 g | FC1=CC=C(C=C1)C=1C(CCC1)=O | C11H9FO
